US06593350B2
2,3-Dihydro-7H-[1,4]dioxino[2,3-e]indol-2-ylmethyl 4-methylbenzenesulfonate
A mixture of 3.75 g (9.2 mmole) of [(2R)-7-nitro-8-(2-oxoethyl)-2,3-dihydro-1,4-benzodioxin-2-yl]methyl 4-methylbenzenesulfonate and 3.0 g of platinum oxide in 50 mL of ethyl acetate was treated with 45 psi of hydrogen on a Parr hydrogenation apparatus for 6 hours. The mixture was then filtered through celite and concentrated in vacuum. The residue was column chromatographed on silica gel with first 10% hexane/methylene chloride, then 1% methanol/methylene chloride and finally 2% methanol/methylene chloride to give 1.50 g of the (R)-enantiomer of the title compound as a white solid one-quarter hydrate, m.p. 145° C.

reactant | [(2R)-7-nitro-8-(2-oxoethyl)-2,3-dihydro-1,4-benzodioxin-2-yl]methyl 4-methylbenzenesulfonate | 9.2 mmole, 3.75 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC2=C(O1)C(=C(C=C2)[N+](=O)[O-])CC=O | C18H17NO8S
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | platinum oxide | 3.0 g | [Pt]=O
product | 2,3-Dihydro-7H-[1,4]dioxino[2,3-e]indol-2-ylmethyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1COC=2C(=C3C=CNC3=CC2)O1 | C18H17NO5S
